US06887889B2
To a solution of bis-(2-chloro-ethyl)amine hydrochloride (50 g, 280 mmol) in CH2Cl2 (400 mL) was added (Boc)2O (61.14 g, 280 mmol). The mixture was cooled to 0° C. and TEA (78 mL, 256 mmol, 2 eq.) was added in 5 portions. The resulting thick slurry was diluted with CH2Cl2 (100 mL) then stirred and warmed to room temperature for 4 h. The mixture was filtered and the solids were washed with hexane. The filtrate was concentrated by rotary evaporation and the resulting slurry was purified by flash column chromatography by eluting with 30% CH2Cl2/hexanes to afford bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester as a clear oil (28 g, 42%). 1H NMR (300 MHz, CDCl3): δ3.72 (br. m, 8H), 1.58 (s, 9H).

reactant | bis-(2-chloro-ethyl)amine hydrochloride | 280 mmol, 50 g | Cl.ClCCNCCCl
reactant | (Boc)2O | 280 mmol, 61.14 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester | 28 g, 42% | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
